US04048191
Ethyl 1,2-dimethyl-5-(p-toluoyl)pyrrole-3-carboxylate
Thirty-seven grams of p-toluoyl chloride (0.243 mole) is added to a suspension of 32.4 g. (0.243 mole) of aluminum chloride in 80 ml of dichloroethane. The resulting solution is then added dropwise to a solution of 40.7 g. (0.243 mole) of ethyl 1,2-dimethylpyrrole-3-carboxylate in 80 ml of dichloroethane cooled in an ice bath. After the addition is complete, the resulting solution is stirred at room temperature for 20 minutes, is refluxed for 20 minutes, and is then poured into an ice-3N hydrochlorice acid mixture. The organic phase is separated and is washed twice with concentrated sodium chloride solution, after which it is dried over magnesium sulfate. Evaporation of the solvent yields a residue from which the desired product crystallized. Further product is obtained by chromatography of the mother liquor over acid-washed alumina in hexane using benzene as the eluant. Evaporation of the first compound-bearing fractions yields the desired product. Recrystallization of the combined yields of product from 95% ethanol and then methanol gives as pure product ethyl 1,2-dimethyl-5-(p-toluoyl)pyrrole-3 -carboxylate; m.p. 98°-100° C.

reactant | p-toluoyl chloride | 0.243 mole, Thirty-seven grams | C1(=CC=C(C=C1)C(=O)Cl)C | C8H7ClO
reactant | aluminum chloride | 0.243 mole | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | ethyl 1,2-dimethylpyrrole-3-carboxylate | 0.243 mole | CN1C(=C(C=C1)C(=O)OCC)C | C9H13NO2
solvent | dichloroethane | 80 ml | ClC(C)Cl | C2H4Cl2
solvent | dichloroethane | 80 ml | ClC(C)Cl | C2H4Cl2
product | Ethyl 1,2-dimethyl-5-(p-toluoyl)pyrrole-3-carboxylate | CN1C(=C(C=C1C(=O)C1=CC=C(C=C1)C)C(=O)OCC)C | C17H19NO3
